US04783455
11-Acetamido-2,3,4,5-tetrahydro-11-phenyl-11H-[1,3]diazepino[1,2-a]indole
A suspension of 2,4,5,11-tetrahydro-11-phenyl-3H-[1,3]diazepino[1,2-a]indol-11-ol hydrobromide (2.89 g)in acetonitrile (16 ml) and methanesulphonic acid (100 drops) was added dropwise over 10 min to stirred sulphuric acid 98% w/w (8 ml) at 50°-60°. After 1/2 hour, the solution was cooled to room temperature, poured into water (200 ml), basified with sodium hyroxide (10 g) and sodium carbonate and extracted with chloroform (2×200 ml). The extracts were dried (MgSO4) and evaporated in vacuo. The brown oil was purified by chromatography (Al2O3 ; ethyl acetate) to give the product free base (0.82 g) as a colourless solid. The hydrochloride was prepared from ether-methanol as a solid (1.06 g), m.p. 285°-290° (dec.).

reactant | 2,4,5,11-tetrahydro-11-phenyl-3H-[1,3]diazepino[1,2-a]indol-11-ol hydrobromide | 2.89 g | Br.C1(=CC=CC=C1)C1(C=2N(C=3C=CC=CC13)CCCCN2)O
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hyroxide | 10 g | [OH-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetonitrile | 16 ml | C(C)#N | C2H3N
catalyst | methanesulphonic acid | 100 drops | CS(=O)(=O)O | CH4O3S
solvent | water | 200 ml | O | H2O
product | 11-Acetamido-2,3,4,5-tetrahydro-11-phenyl-11H-[1,3]diazepino[1,2-a]indole | 0.82 g | C(C)(=O)NC1(C=2N(C=3C=CC=CC13)CCCCN2)C2=CC=CC=C2 | C20H21N3O
